US09193669B2
Oxidation of tert-butyl 3-(3-(2-ethylbutylamino)phenyl)-3-hydroxypropylcarbamate by MnO2 following the method used in Example 12 gave tert-butyl 3-(3-(2-ethylbutylamino)phenyl)-3-oxopropylcarbamate as a pale yellow oil. Yield (0.350 g, 86%); 1H NMR (400 MHz, DMSO-d6+5% D2O) δ 7.17 (t, J=7.6 Hz, 1H), 7.06 (d, J=7.6 Hz, 1H), 7.04 (s, 1H), 6.79 (d, J=7.6 Hz, 1H), 3.20 (t, J=6.4 Hz, 2H), 3.03 (t, J=6.8 Hz, 2H), 2.90 (d, J=6.0 Hz, 2H), 1.50-1.44 (m, 1H), 1.31 (s, 9H), 1.28-1.19 (m, 4H), 0.82 (t, J=7.6 Hz, 6H).

reactant | tert-butyl 3-(3-(2-ethylbutylamino)phenyl)-3-hydroxypropylcarbamate | C(C)C(CNC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)O)CC | C20H34N2O3
catalyst | MnO2 | O=[Mn]=O
product | tert-butyl 3-(3-(2-ethylbutylamino)phenyl)-3-oxopropylcarbamate | C(C)C(CNC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)=O)CC | C20H32N2O3
